US07919508B2
Scheme B, Step B1 4-Chloro-N-{3-[4-((1R,3S)1-formylaminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methylpropyl}-benzamide
Stir a suspension of N-((1R,3S)-5-methoxy-6-methyl-3-(4-piperidinyl)-1-isochromanylmethyl)formamide (1.0 mmol) with 4-Chloro-N-(1-methyl-3-oxo-propyl)-benzamide (3.0 mmol) and sodium triacetoxyborohydride (3.0 mmol) in dichloromethane (5 mL) at room temperature overnight. Apply the reaction mixture directly to a 5 g SCX column and elute and concentrate the appropriate fractions to obtain the title compound. Use the compound directly for the next step.

reactant | N-((1R,3S)-5-methoxy-6-methyl-3-(4-piperidinyl)-1-isochromanylmethyl)formamide | 1.0 mmol | COC1=C2C[C@H](O[C@H](C2=CC=C1C)CNC=O)C1CCNCC1 | C18H26N2O3
reactant | 4-Chloro-N-(1-methyl-3-oxo-propyl)-benzamide | 3.0 mmol | ClC1=CC=C(C(=O)NC(CC=O)C)C=C1 | C11H12ClNO2
reactant | sodium triacetoxyborohydride | 3.0 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-Chloro-N-{3-[4-((1R,3S)1-formylaminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methylpropyl}-benzamide | ClC1=CC=C(C(=O)NC(CCN2CCC(CC2)[C@H]2O[C@H](C3=CC=C(C(=C3C2)OC)C)CNC=O)C)C=C1 | C29H38ClN3O4
